US08912188B2
To a solution of 5-bromo-1H-indazole (1 g, 5.10 mmol) in tetrahydrofuran (30 mL) was added sodium hydride (330 mg, 8.25 mmol) at 0° C. with stirring for 30 min, iodoethane (1.72 g, 11.04 mmol) was added dropwise. The reaction mixture was stirred overnight at room temperature. The reaction was then quenched with water (50 mL), extracted with ethyl acetate (3×80 mL) and the organic layers combined, dried over anhydrous magnesium sulfate and concentrated under vacuum to give the residue, which was purified by a silica gel column with 1% to 5% ethyl acetate in petroleum ether to afford 5-bromo-1-ethyl-1H-indazole as yellow oil (598 mg, 52%).

reactant | 5-bromo-1H-indazole | 5.10 mmol, 1 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | sodium hydride | 8.25 mmol, 330 mg | [H-].[Na+]
reactant | iodoethane | 11.04 mmol, 1.72 g | ICC | C2H5I
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 5-bromo-1-ethyl-1H-indazole | 598 mg, 52% | BrC=1C=C2C=NN(C2=CC1)CC | C9H9BrN2
